US07456218B2
2,6-dimethyl-4-nitrophenyl trifluoromethanesulfonate
To a solution of 2,6-dimethyl-4-nitrophenol (5.0 g, 29.9 mmol) in N,N-dimethylformamide (50 mL) was added sodium hydride (60%, 1.44 g, 35.9 mmol) at 0° C. with stirring and the mixture was stirred for 10 min. N-phenylbis(trifluoromethanesulfonimide) (12.8 g, 35.9 mmol) was added and the mixture was stirred at the same temperature for 2 hrs. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10/1-hexane/ethyl acetate=5/1) to give the title compound (9.2 g, yield 100%) as a yellow oil.

reactant | 2,6-dimethyl-4-nitrophenol | 29.9 mmol, 5.0 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | sodium hydride | 35.9 mmol, 1.44 g | [H-].[Na+]
reactant | N-phenylbis(trifluoromethanesulfonimide) | 35.9 mmol, 12.8 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6-dimethyl-4-nitrophenyl trifluoromethanesulfonate | 9.2 g, yield 100% | FC(S(=O)(=O)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)(F)F | C9H8F3NO5S
